US08431568B2
To a solution of 10-cyclohexyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylic acid (50 mg, 0.13 mmol) and N,N-dimethylsulfamide (78 mg, 0.63 mmol) in DMA (2 mL), was added DMAP (77 mg, 0.63 mmol) and then EDCI-HCl (96 mg, 0.50 mmol). The mixture was stirred at 45° C. overnight, diluted with DMSO and MeOH and purified by prep HPLC (MeOH/H2O with 10 mM TFA buffer) to yield 10-cyclohexyl-N-((dimethylamino)sulfonyl)-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxamide (20 mg, 0.040 mmol, 31%) as light pink solid. 1H NMR (500 MHz, CD3OD) δ 1.16-1.26 (m, 1H), 1.39-1.55 (m, 3H), 1.73-1.83 (m, 2H), 1.93-2.22 (m, 4H), 2.86-2.96 (m, 1H), 3.04 (s, 6H), 5.14 (d, J=15.9 Hz, 1H), 6.05 (d, J=15.9 Hz, 1H), 7.66 (dd, J=8.55, 1.5 Hz, 1H), 7.72-7.80 (m, 3H), 7.82-7.87 (m, 1H), 7.99 (d, J=8.5, 1H), 8.34 (s, 1H), 9.08 (s, 1H). LCMS: m/e 505 (M+H)+, ret time 1.94 min.

reactant | 10-cyclohexyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylic acid | 0.13 mmol, 50 mg | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)O)CN=N4)C2=CC=C1 | C24H22N4O2
reactant | N,N-dimethylsulfamide | 0.63 mmol, 78 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | EDCI HCl | 0.50 mmol, 96 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
catalyst | DMAP | 0.63 mmol, 77 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | 10-cyclohexyl-N-((dimethylamino)sulfonyl)-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxamide | 0.040 mmol, 20 mg, 31% | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)NS(=O)(=O)N(C)C)CN=N4)C2=CC=C1 | C26H28N6O3S
